US07153873B2
3-(tert-butyl-heptanoyl-amino)-1-heptanoyl-2-phenyl-imidazo[1,2-a]pyridin-1-ium chloride
Example 11 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) tert.-butylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) benzaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process steps b) to d) by reacting the resultant reaction product with 0.4 mmol heptylcarboxylic acid chloride.

reactant | 2-amino-pyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1 | C5H6N2
reactant | tert.-butylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | benzaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | heptylcarboxylic acid chloride | 0.4 mmol | C(CCCCCC)C(=O)Cl | C8H15ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 3-(tert-butyl-heptanoyl-amino)-1-heptanoyl-2-phenyl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(C)(C)N(C1=C([N+](=C2N1C=CC=C2)C(CCCCCC)=O)C2=CC=CC=C2)C(CCCCCC)=O | InChI=1S/C31H44N3O2.ClH/c1-6-8-10-15-22-27(35)33-26-21-17-18-24-32(26)30(29(33)25-19-13-12-14-20-25)34(31(3,4)5)28(36)23-16-11-9-7-2;/h12-14,17-21,24H,6-11,15-16,22-23H2,1-5H3;1H/q+1;/p-1
